US04895871
A solution of 11.4 grams (0.029 mole) of [4-[(1,1dimethylethyl)dimethylsilyloxy]phenyl](2,2-difluoro-1,3-benzodioxol-5-yl) ketone in 50 mL of tetrahydrofuran was stirred, and 13.7 grams (0.044 mole) of tetrabutylammonium fluoride was added. Upon completion of addition the reaction mixture was stirred for ten minutes. After this time the reaction mixture was washed in turn with an aqueous solution saturated with ammonium chloride, water, aqueous dilute hydrochloric acid, and an aqueous solution saturated with sodium chloride. The organic layer was dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure to yield 8.0 grams of 4-hydroxyphenyl (2,2-difluoro-1,3-benzodioxol-5-yl) ketone. The nmr spectrum was consistent with the proposed structure.

reactant | [4-[(1,1dimethylethyl)dimethylsilyloxy]phenyl](2,2-difluoro-1,3-benzodioxol-5-yl) ketone | 0.029 mole, 11.4 grams | CC(C)(C)[Si](OC1=CC=C(C=C1)C(=O)C1=CC2=C(OC(O2)(F)F)C=C1)(C)C | C20H22F2O4Si
reactant | tetrabutylammonium fluoride | 0.044 mole, 13.7 grams | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 4-hydroxyphenyl (2,2-difluoro-1,3-benzodioxol-5-yl) ketone | 8.0 grams | FC1(OC2=C(O1)C=CC(=C2)C(=O)C2=CC=C(C=C2)O)F | C14H8F2O4
